US05322848
N-benzyl-3-methoxypyrrolidine
A solution of 2.0 g (11 3 mmoles) of N-benzyl-3-hydroxypyrrolidine in 10 ml of dry THF was added dropwise at room temperature to a stirred slurry of 0.53 g (12.4 mmoles) of 56% NaH in 10 ml of dry THF, under nitrogen atmosphere. After 2 h the solution was cooled to 0° C. and 1.8 g (12.4 mmoles) of methyl iodide were added.

reactant | N-benzyl-3-hydroxypyrrolidine | 3 mmoles, 2.0 g | C(C1=CC=CC=C1)N1CC(CC1)O | C11H15NO
reactant | NaH | 12.4 mmoles, 0.53 g | [H-].[Na+]
reactant | methyl iodide | 12.4 mmoles, 1.8 g | CI | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-benzyl-3-methoxypyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)OC | C12H17NO
